US07592361B2
Preparation of 4-hydroxy-3-methoxybenzenecarbothioamide
A solution of 4-hydroxy-3-methoxybenzonitrile (15.0 g, 0.1 mol) in DMF (150 mL) was treated with a slow flow of gaseous hydrogen sulfide for 30 minutes at rt. Diethyl amine (15.6 mL, 11.0 g, 0.15 mol) was added and the solution was heated at 70° C. for 4 h. The solution was cooled to rt and the residual H2S was removed by passing argon through the solution for 30 minutes. The solvent was evaporated under reduced pressure and the residue was filtered through a plug of silica, followed by washing with EtOAc. Removal of the solvent resulted in a crude brown oil, which was used in the next step without further purification.

reactant | 4-hydroxy-3-methoxybenzonitrile | 0.1 mol, 15.0 g | OC1=C(C=C(C#N)C=C1)OC | C8H7NO2
reactant | hydrogen sulfide | S | H2S
reactant | Diethyl amine | 0.15 mol, 15.6 mL, 11.0 g | C(C)NCC | C4H11N
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
product | 4-hydroxy-3-methoxybenzenecarbothioamide | OC1=C(C=C(C=C1)C(N)=S)OC | C8H9NO2S
